US08314130B2
2,6-difluoro-N-(4-(3-methyl-5-(2-(pyridin-3-yl)ethyl)thiophen-2-yl)phenyl)benzamide
N-(4-(5-bromo-3-methylthiophen-2-yl)phenyl)-2,6-difluorobenzamide (a, 1 mmol), 3-ethynylpyridine (1 mmol), CuI (0.05 mmol), PdCl2(PPh3)2 (0.05 mmol) in THF (6 mL), and Et3N (3 mL) was heated in sealed tube at 100° C. for 1 h. The mixture was filtered through celite and purified by column chromatography to give a white solid (b, 46 mg).

reactant | N-(4-(5-bromo-3-methylthiophen-2-yl)phenyl)-2,6-difluorobenzamide | BrC1=CC(=C(S1)C1=CC=C(C=C1)NC(C1=C(C=CC=C1F)F)=O)C | C18H12BrF2NOS
reactant | 3-ethynylpyridine | 1 mmol | C(#C)C=1C=NC=CC1 | C7H5N
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.05 mmol | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.05 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,6-difluoro-N-(4-(3-methyl-5-(2-(pyridin-3-yl)ethyl)thiophen-2-yl)phenyl)benzamide | FC1=C(C(=O)NC2=CC=C(C=C2)C=2SC(=CC2C)CCC=2C=NC=CC2)C(=CC=C1)F | C25H20F2N2OS
